US05519034
Decanoyl chloride (0.61 g) was added to a stirring suspension of (+)-1- [1-(2-chlorophenyl)cyclopropyl]-6-fluoro-7-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide (1 g, prepared in a similar manner to that described in Example 62) and dichloromethane (25 ml). Triethylamine (1.35 ml) was added and the stirring was maintained for 1.5 hours. Water was then added, and the organic layer washed with 2N aqueous sodium hydroxide solution, then water and dried over potassium carbonate. The solvent was removed in vacuo and the residual oil was purified by liquid chromatography using petroleum ether (b.p. 40°-60° C.) as impurity eluant, then 5% ether in petroleum ether (b.p. 40°-60° C.) as product eluant. The solvent was removed in vacuo to yield (+)-1-[1-(2-chlorophenyl)cyclopropyl]-7-decanoyloxy-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinoline (0.85 g) which had a specific optical rotation αD of +10.6°.

reactant | Decanoyl chloride | 0.61 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | (+)-1- [1-(2-chlorophenyl)cyclopropyl]-6-fluoro-7-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.ClC1=C(C=CC=C1)C1(CC1)C1N(CCC2=CC(=C(C=C12)O)F)C
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
reactant | Triethylamine | 1.35 ml | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | (+)-1-[1-(2-chlorophenyl)cyclopropyl]-7-decanoyloxy-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinoline | 0.85 g | ClC1=C(C=CC=C1)C1(CC1)C1N(CCC2=CC(=C(C=C12)OC(CCCCCCCCC)=O)F)C | C29H37ClFNO2
